US07683096B2
2.88 g of phenyltrimethylammonium tribromide was added to a mixed solution comprising 1.54 g of 2-(3-thenoyl)propane and 30 ml of tetrahydrofuran, followed by a reaction at room temperature for 15 hours. After completion of the reaction, the precipitate was separated by filtration and concentrated, and then purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=2/8-4/6) to obtain 0.87 of 2-bromo-2-(3-thenoyl)propane. The NMR spectrum data of this product were as follows.

reactant | phenyltrimethylammonium tribromide | 2.88 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | 2-(3-thenoyl)propane | 1.54 g | C1=C(C=CS1)C(=O)C(C)C | C8H10OS
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-bromo-2-(3-thenoyl)propane | BrC(C)(C)C(C1=CSC=C1)=O | C8H9BrOS
